US07569727B2
Preparation of N-{(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-[(E)-ethoxyimino]-methyl}-2,2,2-trifluoroacetamide of formula
199 mg of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-ethoxy-benzamidine, 40 mg of triethylamine and 69 mg of trifluoroacetic anhydride are stirred in 4 ml of dichloromethane at room temperature for 24 hours. The reaction mixture is poured into dilute hydrochloric acid and extracted with ethyl acetate. After concentration of the organic phases and purification over silica gel, the title compound is obtained. 1H-NMR (CDCl3) 300 MHz: 1.36 (t, 3H), 2.29 (m, 2H), 4.10-4.35 (m, 6H), 4.59 (d, 2H), 6.11 (t, 1H), 6.83 (s, 2H), 6.95 (d, 2H), 7.42 (d, 2H), 8.62 (s, 1H)

reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-ethoxy-benzamidine | 199 mg | ClC1=C(OCCCOC2=CC=C(C(=N)NOCC)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H22Cl4N2O4
reactant | triethylamine | 40 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 69 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-{(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-[(E)-ethoxyimino]-methyl}-2,2,2-trifluoroacetamide | ClC1=C(OCCCOC2=CC=C(C=C2)\C(\NC(C(F)(F)F)=O)=N/OCC)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C23H21Cl4F3N2O5
